US06936617B2
Thionyl chloride (125 mg, 1.06 mmol) is added to a solution of 2-hydroxymethyl-3-(1-propyl)-imidazolo[1,2-a]pyridine (100 mg, 0.53 mmol) in CH2Cl2 (3 mL) at 0° C. under nitrogen with magnetic stirring. After 1 hour, the reaction is diluted with EtOAc (20 mL), washed with saturated aqueous NaHCO3 (10 mL), water (10 mL) and brine (10 mL). The solution is then dried over anhydrous sodium sulfate, filtered and evaporated at reduced pressure to obtain 2-chloromethyl-3-(1-propyl)-imidazolo[1,2-a]pyridine as a colorless oil. TLC (10% MeOH/CH2Cl2) Rf=0.60. Step 5. Preparation of 3-{1-[(3-propylimidazo[1,2-a]pyridin-2-yl)methyl]-1H-imidazol-2-yl}benzonitrile

reactant | Thionyl chloride | 1.06 mmol, 125 mg | S(=O)(Cl)Cl | Cl2OS
reactant | 2-hydroxymethyl-3-(1-propyl)-imidazolo[1,2-a]pyridine | 0.53 mmol, 100 mg | OCC=1N=C2N(C=CC=C2)C1CCC | C11H14N2O
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 2-chloromethyl-3-(1-propyl)-imidazolo[1,2-a]pyridine | ClCC=1N=C2N(C=CC=C2)C1CCC | C11H13ClN2
